US05223498
Reaction of 4-(2-amino-4-chlorophenyl)morpholine (8.5 g) with thiophosgene (4.6 ml) in dioxan (25 ml) and water (100 ml) for 30 minutes at 0° C. and for 3 hours at room temperature gave 5-chloro-2-morpholinophenyl isothiocyanate as a pale yellow solid (m.p. 86°-87° C.).

reactant | 4-(2-amino-4-chlorophenyl)morpholine | 8.5 g | NC1=C(C=CC(=C1)Cl)N1CCOCC1 | C10H13ClN2O
reactant | thiophosgene | 4.6 ml | C(=S)(Cl)Cl | CCl2S
solvent | dioxan | 25 ml | O1CCOCC1 | C4H8O2
solvent | water | 100 ml | O | H2O
product | 5-chloro-2-morpholinophenyl isothiocyanate | ClC=1C=CC(=C(C1)N=C=S)N1CCOCC1 | C11H11ClN2OS
